US07632840B2
4-(3-Chloro-2-fluoroanilino)-7-methoxyquinazoline-6-carbaldehyde was coupled with 3-[(tert-butoxycarbonyl)amino]-L-alanine (Tetrahedron Letters (1993), 34(20), 3201-4) using an analogous method to that described for the equivalent step in Example 1 to give 3-[(tert-butoxycarbonyl)amino]-N-({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)-L-alanine; 1H NMR Spectrum: (DMSO-d6) 1.32 (s, 9H); 3.26 (m, 3H); 3.86 (d, 1H); 3.97 (m, 4H); 6.73 (s, 1H); 7.21 (s, 1H); 7.27 (t, 1H); 7.47 (t, 1H); 7.54 (t, 1H); 8.40 (s, 1H); 8.44 (s, 1H); 9.86 (s, 1H); Mass Spectrum: (M+H)+ 520.

reactant | 4-(3-Chloro-2-fluoroanilino)-7-methoxyquinazoline-6-carbaldehyde | ClC=1C(=C(NC2=NC=NC3=CC(=C(C=C23)C=O)OC)C=CC1)F | C16H11ClFN3O2
reactant | 3-[(tert-butoxycarbonyl)amino]-L-alanine | C(C)(C)(C)OC(=O)NC[C@H](N)C(=O)O | C8H16N2O4
product | 3-[(tert-butoxycarbonyl)amino]-N-({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)-L-alanine | C(C)(C)(C)OC(=O)NC[C@H](NCC=1C=C2C(=NC=NC2=CC1OC)NC1=C(C(=CC=C1)Cl)F)C(=O)O | C24H27ClFN5O5
